US06664260B2
Using the general method of Example 13 Part F, 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (1.1 g, 3.61 mmol) was reacted with 4-picolyl chloride hydrogen chloride (0.649 g, 3.96 mmol) and the product purified to provide ˜0.3 g of 4-phenoxy-1-[2-(pyridin-4-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline.

reactant | 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 3.61 mmol, 1.1 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCO | C18H15N3O2
reactant | 4-picolyl chloride hydrogen chloride | 3.96 mmol, 0.649 g | Cl.N1=CC=C(C=C1)CCl
product | 4-phenoxy-1-[2-(pyridin-4-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline | ˜0.3 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC2=CC=NC=C2 | C24H20N4O2
